US06369086B1
b) 5-Bromo-1,3-dihydro-2H-pyrrolo[2,3-b]pyridin-2-one
A solution of 3,3,5-tribromo-1,3-dihydro-2H-pyrrolo[2,3-b]pyridin-2-one (5.0 g, 13.4 mmol) in fresh THF (100 mL) was stirred at room temperature, and a saturated aqueous solution of ammonium chloride (100 mL) was added. The flask was placed in a water bath, and activated zinc dust (15.0 g, 230 mmol) was added. The mixture was stirred for 20 min, and the zinc was removed by filtration through a pad of diatomaceous earth. The organic layer was separated, and the aqueous layer was extracted with THF (20 mL). The combined organic layers were washed with saturated brine solution and dried over anhydrous magnesium sulfate. Solvent was removed under reduced pressure. The brown residue was triturated with water (20 mL), and the tan solid was collected by filtration and dried under vacuum to give the title compound as a tan solid, 2.02 g (71%). 1H NMR (d6-DMSO) δ11.13 (s, 1H), 8.15 (s, 1H), 8.76 (s, 1H), 3.57 (s, 2H). MS (AP−ve) 211 (100) (M−H).

reactant | 3,3,5-tribromo-1,3-dihydro-2H-pyrrolo[2,3-b]pyridin-2-one | 13.4 mmol, 5.0 g | BrC1(C(NC2=NC=C(C=C21)Br)=O)Br | C7H3Br3N2O
reactant | ammonium chloride | 100 mL | [Cl-].[NH4+]
solvent | THF | 100 mL | C1CCOC1 | C4H8O
catalyst | zinc | 230 mmol, 15.0 g | [Zn] | Zn
product | 5-Bromo-1,3-dihydro-2H-pyrrolo[2,3-b]pyridin-2-one | BrC=1C=C2C(=NC1)NC(C2)=O | C7H5BrN2O
